2125-02-07 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   None since admission.
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-7**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 64 (56 - 67) bpm
   BP: 100/83(88) {99/56(65) - 152/83(88)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    630 mL
                                                                    761 mL
   PO:
             TF:
   IVF:
                                                                    630 mL
                                                                    761 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    170 mL
   Urine:
                                                                    410 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   Compliance: 39 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/47/87.[**Numeric Identifier 7**]/21/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 293
   Physical Examination
   GENERAL: Thin female, intubated and sedated, does not respond to
   commands.
   HEENT: NCAT. Sclera anicteric. PERRL. ETT in place.
   NECK: Supple with no discernible JVD.
   CARDIAC: RRR, normal S1, S2. No m/r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB, no
   crackles, wheezes or rhonchi.
   ABDOMEN: NABS. Scaphoid. Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No edema. WWP. 2+ PT and DP pulses. RUE with forearm cast.
   4 sec cap refill bilat hands. R hand with dusky discoloration
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   190 K/uL
   9.4 g/dL
   98 mg/dL
   2.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   35 mg/dL
   99 mEq/L
   131 mEq/L
   28.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2125-2-6**]  08:35 PM
                             [**2125-2-6**]  09:15 PM
                             [**2125-2-7**]  02:41 AM
                             [**2125-2-7**]  03:18 AM
   WBC
   6.7
   4.6
   Hct
   29.9
   28.2
   Plt
   253
   190
   Cr
   2.9
   2.4
   TropT
   0.49
   0.52
   TCO2
   28
   27
   Glucose
   98
   98
   Other labs: PT / PTT / INR:20.0/150.0/1.9, CK / CKMB /
   Troponin-T:1013/17/0.52, ALT / AST:[**Telephone/Fax (1) 5130**], Alk Phos / T Bili:102/0.5,
   Lactic Acid:1.0 mmol/L, Albumin:3.4 g/dL, LDH:1812 IU/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   69 y/o F with remote history of mitral prolapse and regurgitation, and
   PUD, s/p ORIF of R wrist yesterday presents with lethargy s/p syncope,
   found to have borderline ST elevations and Trop I of 1.99, ARF, and
   transaminitis, transferred to [**Hospital1 5**] for cardiac cath.
   .
   1. Syncope/ACS: Patient denied CP at OSH. Her presentation with
   lethargy and syncope is unusual for ACS, and she has little known
   cardiac history, but these symptoms may have been multifactorial from
   recent sedatives and hypovolemia. Also, her elevated Trop and CK-MB are
   suggestive of NSTEMI. Although the EKG has mild ST elevations in V2 and
   V3, they are likely not enough to categorize this as a STEMI. Patient
   transferred for cardiac cath.
   - ASA, clopidogrel, atorvastatin
   - Low dose metoprolol given HR in low 60s
   - Heparin gtt
   - Check cardiac markers here and cycle CKMB until peak.
   - Lipid panel
   - TTE to see if any pump dysfunction resulting from ischemia.
   - As patient is stable and is recovering from ARF, will defer cardiac
   cath overnight and reassess in am.
   .
   2. Respiratory failure: Patient noted to be very lethargic at OSH, and
   ABG suggests hypoventilation more than hypoxia. Her CXR shows
   hyperinflation suggesting COPD, although the acidemia and lack of
   elevated bicarb suggests that she is not a chronic CO2 retainer. She
   most likely was overdosed from sedatives/narcotics perioperatively and
   given her small weight, likely underlying lung disease, and ARF, was
   more prone to these effects. No e/o fluid overload or PNA on CXR, and
   PE unlikely given preserved oxygenation, no tachypnea or tachycardia.
   - On vent with settings Vt 480 RR 14 FiO2 50 PEEP 5. Will increase RR
   to 16 and recheck ABG to assess ventilation.
   - Midazolam/fentanyl sedation to keep pt comfortable but responsive to
   stimuli.
   - Wean vent as tolerated in the am.
   - If no improvement with above, would consider PE eval such as V/Q scan
   given ARF.
   .
   3. Acute Renal Failure - Renal US at OSH showed no e/o obstruction. [**Month (only) 8**]
   have had ATN from a med received perioperatively, but more likely
   prerenal from poor POs, and possibly poor forward flow if the ischemia
   has affected pump function.
   - 500cc bolus of NS, followed by 100cc/hr D5 1/2NS.
   - UA/Cx with sediment, urine lytes.
   - Trend creatinine and renally dose meds.
   .
   4. Transaminitis: Likely toxic/viral/ischemic given profound elevation.
   No reason to suspect acute viral hepatitis, and no known toxin
   ingestion. Patient not known to be hypotensive, as would expect with
   ischemia, but possibly occurred at time of ACS.
   - Trend LFTs.
   - Tylenol level and hepatitis serology.
   .
   5. Anemia: Uncertain baseline, currently with hct of ~30. Macryocytic,
   with normal RDW.
   - Repeat hct in am.
   - Iron studies, B12, folate.
   .
   6. s/p ORIF: RUE casted, perfusion symmetrical, although R hand
   somewhat discolored.
   - Monitor neurovascular status.
   .
   7. PUD: H2 blocker.
   .
   # FEN: NPO overnight
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: SC heparin, bowel regimen, H2 blocker
   .
   # CODE: Presumed full
   .
   # COMM: [**Name (NI) **] [**Name (NI) 4181**], [**First Name3 (LF) **]/HCP [**Telephone/Fax (1) 5116**]
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-2-6**] 08:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-02-09 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-2-8**] 11:18 AM
 ARTERIAL LINE - START [**2125-2-8**] 03:00 PM
   Pt extubated
   O2 sats high 90s-100s. ABG with PaCO2 40s, PaO2 50s. Co oximetry WNL
   Uptitrated metoprolol for BP to 25 TID. ?withdrawal since on home
   benzos but do not want to increase sedation
   S: C/o L arm pain near where A line was self d/c
d. Has some SOB and
   cough with occasional whitish sputum.
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-9**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 89 (64 - 89) bpm
   BP: 160/87(102) {102/52(63) - 160/91(117)} mmHg
   RR: 24 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                    271 mL
                                                                    120 mL
   PO:
                                                                     60 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    605 mL
   Urine:
                                                                  1,245 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -974 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 328 (328 - 485) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.34/48/53//0
   Ve: 7.1 L/min
   PaO2 / FiO2: 177
   Physical Examination
   GENERAL: Thin female, alert, mildly tachypneic.
   HEENT: NCAT. Sclera anicteric.
   NECK: Supple.
   CARDIAC: RRR, normal S1, S2. No m/r/g.
   LUNGS: Distant BS bilat. Faint rales R base. Wheezes on R.
   ABDOMEN: NABS. Scaphoid. Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No LE edema. WWP. 2+ PT and DP pulses. RUE with forearm
   cast. Distal RUE with edema and ecchymoses, <2 sec cap refill. LUE with
   <2 sec cap refill. LUE forearm with ecchymoses.
   Labs / Radiology
   246 K/uL
   10.3 g/dL
   118 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   29.8
   9.3 K/uL
        [image002.jpg]
                             [**2125-2-7**]  04:22 PM
                             [**2125-2-7**]  05:33 PM
                             [**2125-2-7**]  06:53 PM
                             [**2125-2-7**]  08:36 PM
                             [**2125-2-8**]  04:37 AM
                             [**2125-2-8**]  06:35 AM
                             [**2125-2-8**]  09:24 AM
                             [**2125-2-8**]  09:47 AM
                             [**2125-2-8**]  04:38 PM
                             [**2125-2-8**]  09:16 PM
   WBC
   5.1
   Hct
   27.9
   31
   Plt
   197
   Cr
   2.3
   1.5
   TCO2
   26
   24
   27
   23
   28
   27
   26
   27
   Glucose
   88
   77
   Other labs: PT / PTT / INR:17.1/60.0/1.5, CK / CKMB /
   Troponin-T:532/8/0.52, ALT / AST:591/564, Alk Phos / T Bili:116/0.5,
   Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:401 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   69 y/o F with remote history of mitral prolapse and regurgitation, and
   PUD, s/p ORIF of R wrist yesterday presents with lethargy s/p syncope,
   found to have ? ST elevations and + cardiac markers, ARF, and
   transaminitis
   1. Cardiac ischemia: Echo shows preserved pump function. More likely
   hypoperfusion from syncope rather than a true ACS.
   - Cont ASA, Metoprolol,
   2. Respiratory failure:  Extubated. Now with some SOB, poor air
   movement and wheezing. CXR doesn
t show a clear infiltrate.
   - Prednisone taper, azithromycin, and nebs for likely COPD
   exacerbation.
   - Will stop metoprolol if does not improve
   3. Acute Renal Failure: Resolved
   4. Anemia: Hct stable.  Uncertain baseline.
   - Follow daily.
   5. Anxiety: Resume low dose alprazolam
   6. HTN: Likely present in outpatient setting as well, +/- mild benzo
   withdrawal.
   - Alprazolam as above.
   - Cont metoprolol with caution given COPD
   - Start Captopril and uptitrate to achieve better BP control
   6. s/p ORIF: RUE casted, perfusion intact.
   - Monitor neurovascular status.
   7. PUD: H2 blocker.
   # FEN: Cardiac diet
   # ACCESS: PIVs
   # PROPHYLAXIS: SC heparin, bowel regimen, H2 blocker
   # CODE: Presumed full
   # COMM: [**Name (NI) **] [**Name (NI) 4181**], [**First Name3 (LF) **]/HCP [**Telephone/Fax (1) 5116**]
   # DISPO: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-2-7**] 08:50 PM
   Arterial Line - [**2125-2-8**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to hypoxia, respiratory failure, NSTEMI, renal
   failure, shock liver.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/13/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2125-2-11**] 12:01 ------

2125-02-10 06:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Spilled coffee on abdomen - skin pink appearing but intact.
   - BP persistently elevated; uptitrated captopril, ordered renal U/S.
   - S+S eval ordered as son reports aspiration events at home.
   S: No CP, abd pain, arm pain or SOB.
   Allergies:
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-10**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 60 (60 - 94) bpm
   BP: 178/82(99) {122/81(94) - 195/102(116)} mmHg
   RR: 27 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
                  Total In:
                                                                    500 mL
                  PO:
                                                                    500 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                    320 mL
   Urine:
                                                                  2,890 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,390 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   GENERAL: Thin female, alert.
   HEENT: NCAT. Sclera anicteric.
   NECK: Supple.
   CARDIAC: RRR, normal S1, S2. No m/r/g.
   LUNGS: Distant BS bilat. Faint rales bilat. No wheezes.
   ABDOMEN: NABS. Scaphoid. Soft, NTND. No HSM or tenderness. No
   erythema/blistering.
   EXTREMITIES: No LE edema. WWP. 2+ PT and DP pulses. RUE with forearm
   cast, distal perfusion intact without edema.
   Labs / Radiology
   273 K/uL
   11.1 g/dL
   126 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.4 mEq/L
   20 mg/dL
   94 mEq/L
   135 mEq/L
   32.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2125-2-7**]  06:53 PM
                             [**2125-2-7**]  08:36 PM
                             [**2125-2-8**]  04:37 AM
                             [**2125-2-8**]  06:35 AM
                             [**2125-2-8**]  09:24 AM
                             [**2125-2-8**]  09:47 AM
                             [**2125-2-8**]  04:38 PM
                             [**2125-2-8**]  09:16 PM
                             [**2125-2-9**]  05:07 AM
                             [**2125-2-10**]  05:17 AM
   WBC
   5.1
   9.3
   8.9
   Hct
   27.9
   31
   29.8
   32.5
   Plt
   197
   246
   273
   Cr
   1.5
   1.0
   TCO2
   24
   27
   23
   28
   27
   26
   27
   Glucose
   77
   118
   Other labs: PT / PTT / INR:17.1/60.0/1.5, CK / CKMB /
   Troponin-T:532/8/0.52, ALT / AST:591/564, Alk Phos / T Bili:116/0.5,
   Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:401 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   69 y/o F with remote history of mitral prolapse and regurgitation, and
   PUD, s/p ORIF of R wrist yesterday presents with lethargy s/p syncope,
   found to have ? ST elevations and + cardiac markers, ARF, and
   transaminitis
   HTN: Likely present in outpatient setting as well, +/- mild benzo
   withdrawal.
   - Alprazolam as above.
   - Cont metoprolol with caution given COPD
   - Start Captopril and uptitrate to achieve better BP control
 now at
   50mg TID
   - start amlodipine 10mg daily
   - also order renal ultrasound
   Cardiac ischemia: Echo shows preserved pump function. More likely
   hypoperfusion from syncope rather than a true ACS.
   - Cont ASA, Metoprolol,
   Respiratory failure/COPD exacerbation:  Extubated. Now with some SOB,
   poor air movement and wheezing. CXR doesn
t show a clear infiltrate.
   - Prednisone taper, azithromycin, and nebs for likely COPD
   exacerbation.
   - Will stop metoprolol if does not improve
   Acute Renal Failure: Resolved
   Anemia: Hct stable.  Uncertain baseline.
   - Follow daily.
   Anxiety: Resume low dose alprazolam
   6. s/p ORIF: RUE casted, perfusion intact.
   - Monitor neurovascular status.
   7. PUD: H2 blocker.
   # FEN: Cardiac diet
   # ACCESS: PIVs
   # PROPHYLAXIS: SC heparin, bowel regimen, H2 blocker
   # CODE: Presumed full
   # COMM: [**Name (NI) **] [**Name (NI) 4181**], [**First Name3 (LF) **]/HCP [**Telephone/Fax (1) 5116**]
   # DISPO: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-2-9**] 02:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   criticall ill due to acute anterior NSTEMI, hypoxia, respiratory
   failure, renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/14/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2125-2-11**] 11:59 ------